US06900309B1
6-[(2,2-Diphenylethyl)amino]-N-[2-(1-piperidinyl)ethyl]-9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-9H-purine-2-carboxamide
To a stirred suspension of 6-[(2,2-diphenylethyl)amino]-N-[2-(1-piperidinyl)ethyl]-9H-purine-2-carboxamide (200 g, 0.426 moles) (Preparation 23) in anhydrous 1,2-dimethoxyethane (800 ml) under an atmosphere of nitrogen was added a solution of trimethylsilyl trifluoromethanesulfonate (200 g, 0.900 moles) in anhydrous 1,2-dimethoxyethane (200 ml) over a period of 15 minutes. During the addition, all the solid dissolved to give a deep red/amber solution and the reaction temperature rose from 20° C. to 31.5° C. The resultant mixture was heated to 55-60° C. and a solution of 1,2,3,5-tetra-O-acetyl-β-D-ribofuranose (163 g, 0.512 moles) in anhydrous 1,2-dimethoxyethane (400 ml) was added over a period of 40 minutes. The addition apparatus was rinsed through into the reaction mixture with anhydrous 1,2-dimethoxyethane (200 ml). The reaction mixture was heated at 60° C. for 3 hours and was allowed to cool to ambient temperature. This crude reaction solution was held at ambient temperature for 18 hours. The resulting mixture containing the title compound may be used directly without further purification.

reactant | 6-[(2,2-diphenylethyl)amino]-N-[2-(1-piperidinyl)ethyl]-9H-purine-2-carboxamide | 0.426 moles, 200 g | C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)C(=O)NCCN1CCCCC1)C1=CC=CC=C1 | C27H31N7O
reactant | trimethylsilyl trifluoromethanesulfonate | 0.900 moles, 200 g | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 1,2,3,5-tetra-O-acetyl-β-D-ribofuranose | 0.512 moles, 163 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C13H18O9
solvent | 1,2-dimethoxyethane | 800 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 200 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 400 ml | COCCOC | C4H10O2
product | 6-[(2,2-Diphenylethyl)amino]-N-[2-(1-piperidinyl)ethyl]-9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-9H-purine-2-carboxamide | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)NCCN1CCCCC1)[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)C1=CC=CC=C1 | C38H45N7O8
